US09403839B2
4-Hydroxy-3-methoxy-benzaldehyde (500 mg, 3.29 mmol), Boc2O (1.74 g, 7.97 mmol), and Sc(OTf)3 (0.080 g, 0.16 mmol) were combined in dichloromethane (5 mL). The reaction mixture was allowed to stir at room temperature for 24 h. Water (5 mL) and dichloromethane (5 mL) were added and the two phases were separated. The aqueous layer was extracted with dichloromethane (3×5 mL) and the combined organics were stirred with 10% aqueous potassium hydroxide until all remaining starting material was not observed in the organic phase (TLC, 40% ethyl acetate in hexanes). The two phases were separated and the dichloromethane layer was then washed twice with a saturated aqueous solution of sodium chloride, dried over sodium sulfate, filtered, and evaporated to dryness to give 4-tert-butoxy-3-methoxybenzaldehyde (130 mg, 19%) as a yellow oil. Rf=0.66 (SiO2, 40% ethyl acetate in hexanes); ESI-MS m/z calc. 208.1, found 209.2 (M+1)+. Retention time: 0.96 minutes (6 min run).

reactant | 4-Hydroxy-3-methoxy-benzaldehyde | 3.29 mmol, 500 mg | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | Boc2O | 7.97 mmol, 1.74 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 5 mL | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | Sc(OTf)3 | 0.16 mmol, 0.080 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Sc+3]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-tert-butoxy-3-methoxybenzaldehyde | 130 mg, 19% | C(C)(C)(C)OC1=C(C=C(C=O)C=C1)OC | C12H16O3
